US04178379
A. Tetrahydro-3,5-bis-(4-chlorophenylmethylene)-4H-thiopyran-4-one
A solution of tetrahydro-4H-thiopyran-4-one (10.0 g, 0.086 mole) and 4-chlorobenzaldehyde (24.0 g, 0.172 mole) in 60 ml ethanol is treated with 6 ml of concentrated HCl and heated at reflux temperature for 2 hours. Upon cooling, 10 g of product is collected. Concentration of the mother liquor and washings to the original volume and adding additional concentrated HCl (4 ml) gives another 12 g of product. The combined crude material, recrystallized from CHCl3 /EtOH gives 15 g of product, m.p. 163°-165°.

reactant | tetrahydro-4H-thiopyran-4-one | 0.086 mole, 10.0 g | S1CCC(CC1)=O | C5H8OS
reactant | 4-chlorobenzaldehyde | 0.172 mole, 24.0 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | HCl | 6 ml | Cl | ClH
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | Tetrahydro-3,5-bis-(4-chlorophenylmethylene)-4H-thiopyran-4-one | 12 g | ClC1=CC=C(C=C1)C=C1CSCC(C1=O)=CC1=CC=C(C=C1)Cl | C19H14Cl2OS
